US09422282B2
5-Benzyloxy-6-[5-(4-fluoro-benzyl)-[1,3,4]oxadiazol-2-yl]-3-methyl-3H-pyrimidin-4-one oxime was hydrogenated at 1 atmosphere of hydrogen in the presence of equal weight of 10% Pd/C to give 68% yield of 6-[5-(4-fluoro-benzyl)-[1,3,4]oxadiazol-2-yl]-5-hydroxy-3-methyl-3H-pyrimidin-4-one oxime (COTI-HIV-1DOxime or, also referred to as COTI-HIV-1). Results are summarized below.

reactant | 5-Benzyloxy-6-[5-(4-fluoro-benzyl)-[1,3,4]oxadiazol-2-yl]-3-methyl-3H-pyrimidin-4-one oxime | C(C1=CC=CC=C1)OC=1C(N(C=NC1C=1OC(=NN1)CC1=CC=C(C=C1)F)C)=NO | C21H18FN5O3
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
product | 6-[5-(4-fluoro-benzyl)-[1,3,4]oxadiazol-2-yl]-5-hydroxy-3-methyl-3H-pyrimidin-4-one oxime | 68% yield | FC1=CC=C(CC2=NN=C(O2)C2=C(C(N(C=N2)C)=NO)O)C=C1 | C14H12FN5O3
